US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)-5-(2-pyridyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4- bromo-3-methylisoxazole and 5-(2-pyridyl)thiophene-2-sulphonyl chloride in 40% yield. Purification was achieved by recrystallization from ethyl acetate to give a crystalline solid, m.p. 186°-188° C.

reactant | 5-amino-4- bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 5-(2-pyridyl)thiophene-2-sulphonyl chloride | N1=C(C=CC=C1)C1=CC=C(S1)S(=O)(=O)Cl | C9H6ClNO2S2
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-5-(2-pyridyl)thiophene-2-sulfonamide | 40% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C1=NC=CC=C1)C | C13H10BrN3O3S2
